US04983723
To a suspension of 1.1 g of lithium aluminum hydride in 30 ml of anhydrous diglyme and 10 ml of anhydrous tetrahydrofuran (hereinafter "THF") was added dropwise 10 ml of an anhydrous THF solution containing 5 g of 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-yn-2-ol in a nitrogen atmosphere, and the mixture was stirred at reflux for 15 hours. After completion of the reaction, the reaction mixture was cooled and carefully hydrolyzed with water under ice-cooling. The aqueous phase was neutralized with diluted hydrochloric acid and extracted with diethyl ether. The organic layers were combined, washed with water, and dried over anhydrous magnesium sulfate. The solvent, etc. were removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 2.8 g (yield: 55%) of 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en- 2-ol.

reactant | lithium aluminum hydride | 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-yn-2-ol | 5 g | OC1CC(=C(C(C1)(C)C)C#CC(C)O)C | C13H20O2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | diglyme | 30 ml | COCCOCCOC | C6H14O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en- 2-ol | 2.8 g, yield: 55% | OC1CC(=C(C(C1)(C)C)C=CC(C)O)C | C13H22O2
